### PR TITLE
[Merged by Bors] - refactor: Generalise the rearrangement inequality

### PR DESCRIPTION
**Pull request by YaelDillies**
---

- [x] depends on: #13950
- [x] depends on: #15813
- [x] depends on: #15814
- [x] depends on: #16940

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Module/Defs.lean [hunk 1]
```diff
@@ -794,6 +794,47 @@ instance instSMulPosReflectLE [SMulPosReflectLE α β] : SMulPosReflectLE α β
...
+section PosSMulStrictMono
+variable [PosSMulStrictMono α β] {a₁ a₂ : α} {b₁ b₂ : β}
+
+/-- Binary strict **rearrangement inequality**. -/
+lemma smul_add_smul_lt_smul_add_smul (ha : a₁ < a₂) (hb : b₁ < b₂) :
+    a₁ • b₂ + a₂ • b₁ < a₁ • b₁ + a₂ • b₂ := by
+  obtain ⟨a, ha₀, rfl⟩ := lt_iff_exists_pos_add.1 ha
+  rw [add_smul, add_smul, add_left_comm]
+  gcongr
+  exact ha₀
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Module/Defs.lean:828]: I'm slightly surprised `gcongr` can't figure this one out, it's just an assumption right?

File: Mathlib/Algebra/Order/Rearrangement.lean [hunk 2]
```diff
@@ -134,22 +188,13 @@ theorem MonovaryOn.sum_smul_comp_perm_eq_sum_smul_iff (hfg : MonovaryOn f g s)
   · convert h.sum_smul_comp_perm_le_sum_smul ((set_support_inv_eq _).subset.trans hσ) using 1
     simp_rw [Function.comp_apply, apply_inv_self]
 
-/-- **Strict inequality case of the Rearrangement Inequality**: Pointwise scalar multiplication of
-`f` and `g`, which monovary together, is strictly decreased by a permutation if and only if
-`f` and `g ∘ σ` do not monovary together. Stated by permuting the entries of `g`. -/
-theorem MonovaryOn.sum_smul_comp_perm_lt_sum_smul_iff (hfg : MonovaryOn f g s)
+/-- **Equality case of the Rearrangement Inequality**: Pointwise scalar multiplication of `f` and
+`g`, which antivary together, is unchanged by a permutation if and only if `f` and `g ∘ σ` antivary
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Rearrangement.lean:192]:
```suggestion
`g`, which antivary together on `s`, is unchanged by a permutation if and only if `f` and `g ∘ σ` antivary
```
and similar below

File: Mathlib/Algebra/Order/Module/Defs.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Module/Defs.lean:828]: Yes but it's not in a position where `gcongr` would look for an assumption. Instead it's a position where `gcongr` calls `positivity`, but only once you import `Tactic.GCongr`. If you only import, `Tactic.GCongr.Core`, then it doesn't try to discharge.

Comment (b-mehta) [reply Mathlib/Algebra/Order/Module/Defs.lean]: Then it sounds to me like `Tactic.GCongr` should be imported, since we'd like to discharge the positivity assumption!

File: Mathlib/Algebra/Order/Rearrangement.lean [hunk 3]
```diff
@@ -106,9 +105,64 @@ theorem MonovaryOn.sum_smul_comp_perm_le_sum_smul (hfg : MonovaryOn f g s)
...
+    (show { x | σ⁻¹ x ≠ x } ⊆ s by simp only [set_support_inv_eq, hσ]) using 1
+  exact σ.sum_comp' s (fun i j ↦ f i • g j) hσ
+
+variable [Fintype ι]
+
+/-- **Rearrangement Inequality**: Pointwise scalar multiplication of `f` and `g` is maximized when
+`f` and `g` monovary together. Stated by permuting the entries of `g`. -/
+theorem Monovary.sum_smul_comp_perm_le_sum_smul (hfg : Monovary f g) :
+    ∑ i, f i • g (σ i) ≤ ∑ i, f i • g i :=
+  (hfg.monovaryOn _).sum_smul_comp_perm_le_sum_smul fun _ _ ↦ mem_univ _
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Rearrangement.lean:136]: Instead of unfolding the definition of subset here, you can use a lemma in mathlib: `Finset.subset_univ`

File: Mathlib/Algebra/Order/Rearrangement.lean [hunk 4]
```diff
@@ -171,63 +216,93 @@ theorem MonovaryOn.sum_comp_perm_smul_eq_sum_smul_iff (hfg : MonovaryOn f g s)
...
     (hσ : {x | σ x ≠ x} ⊆ s) :
+    ∑ i ∈ s, f i • g (σ i) < ∑ i ∈ s, f i • g i ↔ ¬MonovaryOn f (g ∘ σ) s := by
+  simp [← hfg.sum_smul_comp_perm_eq_sum_smul_iff hσ, lt_iff_le_and_ne,
+    hfg.sum_smul_comp_perm_le_sum_smul hσ]
+
+/-- **Strict inequality case of the Rearrangement Inequality**: Pointwise scalar multiplication of
+`f` and `g`, which antivary together on `s`, is strictly decreased by a permutation if and only if
+`f` and `g ∘ σ` do not antivary together on `s`. Stated by permuting the entries of `g`. -/
+theorem AntivaryOn.sum_smul_lt_sum_smul_comp_perm_iff
+    (hfg : AntivaryOn f g s) (hσ : {x | σ x ≠ x} ⊆ s) :
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Rearrangement.lean:286]: For readability's sake, let's be consistent about the layout of the arguments in this file. In some lemmas you put the Monovary assumption on the next line, and in others on the same line - please be consistent here.

**Review by b-mehta — CHANGES_REQUESTED** [review]

File: Mathlib/Algebra/Order/Rearrangement.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Rearrangement.lean:136]: Doesn't work :-) the LHS is a `Set`

File: Mathlib/Algebra/Order/Rearrangement.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Rearrangement.lean:286]: That was an oversight

File: Mathlib/Algebra/Order/Rearrangement.lean [hunk 5]
```diff
@@ -236,181 +311,120 @@ theorem AntivaryOn.sum_smul_lt_sum_comp_perm_smul_iff (hfg : AntivaryOn f g s)
...
+end strict_inequality
 
 /-!
 ### Multiplication versions
 
 Special cases of the above when scalar multiplication is actually multiplication.
 -/
 
-
 section Mul
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Rearrangement.lean:353]: Oversight

File: scripts/noshake.json [hunk 6]
```diff
@@ -404,6 +404,7 @@
   ["Mathlib.AlgebraicTopology.AlternatingFaceMapComplex"],
   "Mathlib.Algebra.Star.Module": ["Mathlib.Algebra.Module.LinearMap.Star"],
   "Mathlib.Algebra.Ring.CentroidHom": ["Mathlib.Algebra.Algebra.Defs"],
+  "Mathlib.Algebra.Order.Module.Defs": ["Mathlib.Algebra.Order.Module.Synonym"],
```
Comment (ocfnash) [inline scripts/noshake.json:407]: Why is this necessary?

**Review by ocfnash — APPROVED** [review]
Thanks!

LGTM, just one question.

bors d+

**Comment by b-mehta** [comment]
Please also make sure your title follows our community convention: https://leanprover-community.github.io/contribute/commit.html

File: scripts/noshake.json (hunk 6 above)
Comment (YaelDillies) [reply scripts/noshake.json:407]: It was necessary at some point for some reason, but it looks it's not anymore

File: Mathlib/Algebra/Order/Rearrangement.lean [hunk 7]
```diff
@@ -171,63 +216,93 @@ theorem MonovaryOn.sum_comp_perm_smul_eq_sum_smul_iff (hfg : MonovaryOn f g s)
...
-`f` and `g` antivary together. Stated by permuting the entries of `g`. -/
-theorem AntivaryOn.sum_smul_le_sum_smul_comp_perm (hfg : AntivaryOn f g s)
-    (hσ : {x | σ x ≠ x} ⊆ s) : ∑ i ∈ s, f i • g i ≤ ∑ i ∈ s, f i • g (σ i) :=
-  hfg.dual_right.sum_smul_comp_perm_le_sum_smul hσ
+@[deprecated (since := "2024-06-25")]
+alias AntivaryOn.sum_smul_eq_sum_comp_perm_smul_iff := AntivaryOn.sum_comp_perm_smul_eq_sum_smul_iff
+
+variable [Fintype ι]
+
+/-- **Equality case of the Rearrangement Inequality**: Pointwise scalar multiplication of `f` and
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Rearrangement.lean:237]: I've added a todo

**Comment by YaelDillies** [comment]
bors merge
